US04742052
To a solution of sodium sulfite hydrade (12.35 g) in water (70 ml) was added a solution of p-nitrobenzyl 4-p-methoxybenzyloxycarbonyl-4-methylvalerate (25.4 g) in tetrahydrofuran (140 ml). The reaction mixture was stirred at room temperature for 7.5 hours, diluted with water and washed with diethyl ether. The aqueous layer was acidified with hydrochloric acid and extracted with diethyl ether. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to give 4-p-methoxybenzyloxycarbonyl-4-methylvaleric acid.

reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | p-nitrobenzyl 4-p-methoxybenzyloxycarbonyl-4-methylvalerate | 25.4 g | COC1=CC=C(COC(=O)C(CCC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])(C)C)C=C1 | C22H25NO7
solvent | water | 70 ml | O | H2O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 4-p-methoxybenzyloxycarbonyl-4-methylvaleric acid | COC1=CC=C(COC(=O)C(CCC(=O)O)(C)C)C=C1 | C15H20O5
